US08487117B2
Preparation of 5-[4-fluoro-2-(trifluoromethyl)phenyl]-4-methyl-N-[4-(methylsulfonyl)phenyl]-1H-pyrrole-3-carboxamide
To a suspension of 5-[4-fluoro-2-(trifluoromethyl)phenyl]-4-methyl-1H-pyrrole-3-carboxylic acid (7.7 g, 27 mmol) in dichloromethane (60 ml) was added oxalyl chloride (5.1 ml, 59 mmol). The mixture was stirred at room temperature for 2.0 h, after which time the solvent was removed on a rotary evaporator. To this brown residue was added 4-(methanesulfonyl)aniline hydrochloride (5.8 g, 28 mmol), tetrahydrofuran (THF) (80 ml) and diisopropylethylamine (DIEA) (14 ml, 80 mmol). The solution was stirred at room temperature for 2.0 h. The reaction mixture was concentrated and to the residue was added 2N HCl (80 ml) and water (80 ml) and resulting suspension was stirred for 30 min. The solid was filtered and washed with water and diisopropyl ether (IPE) to give the title compound as a white solid (11 g, 90%).

reactant | 5-[4-fluoro-2-(trifluoromethyl)phenyl]-4-methyl-1H-pyrrole-3-carboxylic acid | 27 mmol, 7.7 g | FC1=CC(=C(C=C1)C1=C(C(=CN1)C(=O)O)C)C(F)(F)F | C13H9F4NO2
reactant | oxalyl chloride | 59 mmol, 5.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(methanesulfonyl)aniline hydrochloride | 28 mmol, 5.8 g | Cl.CS(=O)(=O)C1=CC=C(N)C=C1
reactant | diisopropylethylamine | 80 mmol, 14 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 5-[4-fluoro-2-(trifluoromethyl)phenyl]-4-methyl-N-[4-(methylsulfonyl)phenyl]-1H-pyrrole-3-carboxamide | 11 g, 90% | FC1=CC(=C(C=C1)C1=C(C(=CN1)C(=O)NC1=CC=C(C=C1)S(=O)(=O)C)C)C(F)(F)F | C20H16F4N2O3S
